US07402595B2
2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid 4-methoxybenzyl ester
The present compound was synthesized by a method similar to that in Example 200 and using 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (200 mg) and 4-methoxybenzyl alcohol. A colorless powder (110 mg). HPLC analysis (Agilent 1100 system): purity 96% (retention time: 4.30 min). MS (ESI+): 583 (M+H), 585.

reactant | 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 200 mg | C(C1=CC=CC=C1)OC(=O)N(N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Cl)=O)C | C25H19ClN2O5
reactant | 4-methoxybenzyl alcohol | COC1=CC=C(CO)C=C1 | C8H10O2
product | 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid 4-methoxybenzyl ester | COC1=CC=C(COC(=O)C=2N(C(C3=CC=C(C=C3C2C2=CC=CC=C2)Cl)=O)N(C)C(=O)OCC2=CC=CC=C2)C=C1 | C33H27ClN2O6
